US06172085B2
Ethyl 1-[(5-amino-2,4,6,7-tetramethyl-2,3-dihydrobenzofuran-2-yl)methyl]-4-piperidinecarboxylate
In an autoclave, a mixture of 2-bromomethyl-2,3-dihydro-2,4,6,7-tetramethyl-5-benzofuranamine (8.4 g), ethyl isonipecotate (14 g), and xylene (20 mL) was stirred under nitrogen gas at 180° C. for 15 hours. The supernatant was taken from the reaction mixture and washed with water, saturated aqueous NaHCO3, and saturated aqueous NaCl, dried over MgSO4, treated with activated carbon, filtered, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=5:1 to 2:1) and crystallized from hexane to provide 2.9 g of the title compound. Yield 27%.

reactant | 2-bromomethyl-2,3-dihydro-2,4,6,7-tetramethyl-5-benzofuranamine | 8.4 g | BrCC1(OC2=C(C1)C(=C(C(=C2C)C)N)C)C | C13H18BrNO
reactant | ethyl isonipecotate | 14 g | N1CCC(C(=O)OCC)CC1 | C8H15NO2
solvent | xylene | 20 mL | C=1(C(=CC=CC1)C)C | C8H10
product | Ethyl 1-[(5-amino-2,4,6,7-tetramethyl-2,3-dihydrobenzofuran-2-yl)methyl]-4-piperidinecarboxylate | 2.9 g, Yield 27% | NC=1C(=C(C2=C(CC(O2)(C)CN2CCC(CC2)C(=O)OCC)C1C)C)C | C21H32N2O3
